US05563162
8-[2,6-Dichloro-3-[N-[4-[(N-tert-butoxycarbonyl-L-prolyl)amino]cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline (170 mg) was treated with 4M hydrogen chloride-ethyl acetate (2 ml) at ambient temperature for 30 minutes. The reaction mixture was concentrated to give 8-[2,6-dichloro-3-[N-[4-(L-prolylamino)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline dihydrochloride (152 mg).

reactant | 8-[2,6-Dichloro-3-[N-[4-[(N-tert-butoxycarbonyl-L-prolyl)amino]cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline | 170 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)NC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)=O)=O)Cl | C39H41Cl2N5O6
reactant | hydrogen chloride-ethyl acetate | 4M, 2 ml | C(C)(=O)OCC.Cl
product | 8-[2,6-dichloro-3-[N-[4-(L-prolylamino)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline dihydrochloride | 152 mg | Cl.Cl.ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)NC([C@H]1NCCC1)=O)=O)=O)Cl | InChI=1S/C34H33Cl2N5O4.2ClH/c1-21-8-12-23-5-3-7-29(33(23)39-21)45-20-25-26(35)15-16-28(32(25)36)41(2)31(43)19-38-30(42)17-11-22-9-13-24(14-10-22)40-34(44)27-6-4-18-37-27;;/h3,5,7-17,27,37H,4,6,18-20H2,1-2H3,(H,38,42)(H,40,44);2*1H/t27-;;/m0../s1
